US06509328B1
8-(4-Fluoro-phenyl)-4-[3-(2-methyl-imidazol-1-yl)-phenyl]-1,3-dihydro-benzo[b][1,4]diazepin-2-one
Prepared from (4′-fluoro-3-{3-[3-(2-methyl-imidazol-1-yl)-phenyl]-3-oxo-propionylamino}-biphenyl-4-yl)-carbamic acid tert.-butyl ester (Example K53) by treatment with TFA in CH2Cl2 according to the general procedure M. Obtained as a yellow solid (178 mg).

reactant | (4′-fluoro-3-{3-[3-(2-methyl-imidazol-1-yl)-phenyl]-3-oxo-propionylamino}-biphenyl-4-yl)-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=CC=C(C=C1)F)NC(CC(=O)C1=CC(=CC=C1)N1C(=NC=C1)C)=O)=O | C30H29FN4O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 8-(4-Fluoro-phenyl)-4-[3-(2-methyl-imidazol-1-yl)-phenyl]-1,3-dihydro-benzo[b][1,4]diazepin-2-one | 178 mg | FC1=CC=C(C=C1)C=1C=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)N2C(=NC=C2)C)=O)C1 | C25H19FN4O
